US07265144B2
Step 4: Preparation of 3-(4-fluoro-2-methylphenyl)-1-(2-methylphenyl)-1H-pyrazol-5-amine
To a solution of 3-(4-fluoro-2-methylphenyl)-3-oxopropanenitrile (2.0 g, 11.3 mmol) in toluene (10 mL) was added (2-methylphenyl)hydrazine hydrochloride (2.15 g, 13.5 mmol). The reaction was stirred at 110° C. for 16 h, and then cooled to rt. It was concentrated under reduced pressure, and the residue was purified by silica gel flash chromatography (2:1-1:1=hexanes:ethyl acetate) to afford the product as a yellow oil (500 mg, 16%). 1H NMR (400 MHz, DMSO-d6) δ 2.12 (s, 3H), 2.44 (s, 3H), 5.74 (s, 1H), 7.02-7.14 (m, 2H), 7.34-7.43 (m, 4H), 7.52 (dd, 1H); ES-MS m/z 282.4 (MH+); HPLC RT (min) 3.36

reactant | 3-(4-fluoro-2-methylphenyl)-3-oxopropanenitrile | 11.3 mmol, 2.0 g | FC1=CC(=C(C=C1)C(CC#N)=O)C | C10H8FNO
reactant | (2-methylphenyl)hydrazine hydrochloride | 13.5 mmol, 2.15 g | Cl.CC1=C(C=CC=C1)NN
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-fluoro-2-methylphenyl)-1-(2-methylphenyl)-1H-pyrazol-5-amine | 500 mg, 16% | FC1=CC(=C(C=C1)C1=NN(C(=C1)N)C1=C(C=CC=C1)C)C | C17H16FN3
